US06511974B1
[2-Chloro-4-(1,2,4-triazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
In the manner of Example 9's Method 1, employing (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (1.7 g), 60% sodium hydride in oil (0.5 g, degreased with hexane), 1,2,4-triazole (0.70 g) and dimethylformamide (50 ml), the title compound (0.51 g) was obtained as an amorphous solid, MS, m/z: 390.3 (M+H)+, 779.3 (2M+H)+.

reactant | (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.7 g | ClC1=C(C=CC(=C1)F)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C19H14ClFN2O
reactant | sodium hydride | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | 1,2,4-triazole | 0.70 g | N1N=CN=C1 | C2H3N3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [2-Chloro-4-(1,2,4-triazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.51 g | ClC1=C(C=CC(=C1)N1N=CN=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C21H16ClN5O
